US07772271B2
To a suspension of 2-(4-aminophenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile (519.2 mg, 1.71 mmol), K2CO3, 10 mL of methyl ethyl ketone, and 2 mL of DMF is added 2-bromoethyl methyl ether. The resulting mixture is stirred at 85° C. for 8 h. The mixture is concentrated and the residue is partitioned between ethyl acetate (20 mL) and water (20 mL). The aqueous phase is extracted with additional ethyl acetate (20 mL). The combined organic phases are washed with saturated NaCl, dried over MgSO4, and then the solution is concentrated and the product is washed with diethyl ether to afford 505.0 mg (81.7% yield) of 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indole-3-carbonitrile as a yellow solid.

reactant | 2-(4-aminophenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 1.71 mmol, 519.2 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1 | C19H17N3O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-aminophenyl)-1-cyclobutyl-6-(2-methoxy-ethoxy)-1H-indole-3-carbonitrile | 505.0 mg, 81.7% yield | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCOC)C1CCC1 | C22H23N3O2
